US07371744B2
Compound 12 3-(N,N-dipentylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide (20%)
This compound was obtained following isolation of 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide and subsequent treatment with dipentylamine. Precipitation from dichloromethane by addition of diethyl ether yielded purple lustrous crystals. Mass spectrometry: C28H42N3OS requires m/z=452; found m/z=452 (I− not detected by mass spectrometry).

reactant | 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide | [I-].[I-].[I-].C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1
reactant | dipentylamine | C(CCCC)NCCCCC | C10H23N
product | 3-(N,N-dipentylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide | [I-].C(CCCC)N(CCCCC)C=1C=CC2=NC3=CC=C(C=C3[S+]=C2C1)N(CCC)CCC | InChI=1S/C28H42N3S.HI/c1-5-9-11-19-31(20-12-10-6-2)24-14-16-26-28(22-24)32-27-21-23(13-15-25(27)29-26)30(17-7-3)18-8-4;/h13-16,21-22H,5-12,17-20H2,1-4H3;1H/q+1;/p-1
